US07371748B2
5-Methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide
7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine and 5-methyl-thiophene-2-carboxylic acid were reacted as described for N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide in WO01/9786. Usual workup, preparative reversed-phase HPLC and final dry-freezing afforded the title compound as white powder. MS: m/e=405(M+H+). Following the general method of example 1 the compounds of examples 9 to 16 were prepared.

reactant | 7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-ylamine | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)N)OC | C13H16N2O3S
reactant | 5-methyl-thiophene-2-carboxylic acid | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | C21H16N2O2S
product | 5-Methyl-thiophene-2-carboxylic acid (7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-amide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C19H20N2O4S2
